US06809199B2
A solution of N-benzyl-1-tert-butylpiperidin-4-amine (150 mg) and 10% palladium on carbon (200 mg) in 30 mL of MeOH was hydrogenated in a Parr shaker at 50 psi for 16 h. The solution was filtered and concentrated to give 1-tert-butylpiperidin-4-amine which was used without further purification. Mass spectrum (ESI) 157 (M+1).

reactant | N-benzyl-1-tert-butylpiperidin-4-amine | 150 mg | C(C1=CC=CC=C1)NC1CCN(CC1)C(C)(C)C | C16H26N2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
product | 1-tert-butylpiperidin-4-amine | C(C)(C)(C)N1CCC(CC1)N | C9H20N2
